US07071201B2
395)-2 3,3-Dimethyl-1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-acetamidomethylindoline
Under ice cooling, acetyl chloride (0.05 ml) was added dropwise into a solution of 3,3-dimethyl-1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-aminomethylindoline (0.22 g) obtained above and triethylamine (0.5 ml) in tetrahydrofuran (10 ml) and the resultant mixture was stirred at room temperature for 1 hr. Then a 1 N aqueous solution (5 ml) of sodium hydroxide and water (10 ml) were added to the reaction mixture, which was extracted with ethyl acetate, washed with brine and dried over magnesium sulfate. After evaporating the solvent, the residue was purified by silica gel column chromatography (chloroform/methanol system) and crystallized from ethyl acetate/hexane to give the title compound (0.18 g) as a yellowish white powder (yield: 73.7%).

reactant | acetyl chloride | 0.05 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3,3-dimethyl-1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-aminomethylindoline | 0.22 g | CC1(CN(C2=CC(=CC=C12)CN)C1CCN(CC1)CCC1=CC=C(C=C1)F)C | C24H32FN3
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 3,3-Dimethyl-1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-acetamidomethylindoline | 0.18 g, yield: 73.7% | CC1(CN(C2=CC(=CC=C12)CNC(C)=O)C1CCN(CC1)CCC1=CC=C(C=C1)F)C | C26H34FN3O
